US06080870
Step B: 4-(4-Cyanophenyloxy)-1-trityl-imidazole
To a cold (0° C.) solution of 4-(4-cyanophenyloxy)-imidazole (155 mg, 0.84 mmol) and triethylanine (0.129 mL, 0.92 mmol) in DMF (1 mL) was added trityl chloride (245 mg, 0.88 mmol). The resultant mixture was stirred at ambient temperature for 5 days. The product mixture was concentrated onto silica gel, chromatographed (Silica gel, 1:9 acetone in CHCl3) to afford the title compound as a white powder.

reactant | 4-(4-cyanophenyloxy)-imidazole | 0.84 mmol, 155 mg | C(#N)C1=CC=C(C=C1)OC=1N=CNC1 | C10H7N3O
reactant | trityl chloride | 0.88 mmol, 245 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(4-Cyanophenyloxy)-1-trityl-imidazole | C(#N)C1=CC=C(C=C1)OC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H21N3O
